US07022725B2
A mixture of 3-(4-chlorophenyl)-5-methyl-4-isoxazolylmethanol (2.23 g) and thionyl chloride (5.0 ml) was stirred at 0° C. for 30 min. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were filtrated to give 4-chloromethyl-3-(4-chlorophenyl)-5-methylisoxazole (2.20 g, yield 91%). The crystals were recrystallized from diisopropyl ether. melting point: 91–92° C.

reactant | 3-(4-chlorophenyl)-5-methyl-4-isoxazolylmethanol | 2.23 g | ClC1=CC=C(C=C1)C1=NOC(=C1CO)C | C11H10ClNO2
reactant | thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloromethyl-3-(4-chlorophenyl)-5-methylisoxazole | 2.20 g, yield 91% | ClCC=1C(=NOC1C)C1=CC=C(C=C1)Cl | C11H9Cl2NO
